US07351833B2
2-(S)-Hydroxyamino-2-phenyl-ethanol
A solution of (S)-phenylglycinol (15 g) and p-anisaldehyde (16.4 g) in methyl tert-butyl ether (150 mL) was heated to reflux, with a Dean-Stark trap attached, for about 3 hours. Tetrahydrofuran (60 mL) was added and the mixture cooled to 0° C. To this was added a solution of m-chloroperoxybenzoic acid (29.8 g) in methyl tert-butyl ether (80 mL), maintaining the temperature below 5° C. The mixture was stirred at 0° C. for about 3 hours. Then the reaction mixture was washed with 10% aqueous potassium carbonate (3×75 mL). The resulting organic layer was concentrated to a smaller volume. To this was added a solution of hydroxylamine hydrochloride (15.3 g) in methanol (19 mL) and water (27 mL), and the reaction was stirred at room temperature for about 3 hours. Heptane (30 mL) and water (30 mL) were added. The layers were separated, and the aqueous layer was washed with methyl tert-butyl ether (3×30 mL). The methanol was removed by vacuum distillation, and then methyl tert-butyl ether (75 ml) was added. After adjusting the pH to 7 with solid potassium carbonate, sodium chloride was added and the layers separated. The aqueous layer was further extracted with methyl tert-butyl ether (2×75 mL). The combined methyl tert-butyl ether extracts were filtered, concentrated to a small volume, and then heptane (70 mL) was added. The resulting slurry was stirred at room temperature for about 1 hour and then cooled to 0° C. After stirring for 1 hour, the mixture is filtered and the wetcake washed with heptane (20 mL). The wetcake was then dissolved in dichloromethane (100 mL) for use in the next step. 1H NMR (400 MHz, CDCl3) δ 3.83–3.91 (2H, m), 4.12 (1H, dd, J=6.9, 4.8 Hz), 4.84 (3H, br s), 7.27–7.36 (5H, m). 13C NMR (100 MHz, CDCl3) δ 63.8, 67.7, 127.5, 127.9, 128.4, 137.5.

reactant | (S)-phenylglycinol | 15 g | C1=CC=C(C=C1)[C@@H](CO)N | C8H11NO
reactant | p-anisaldehyde | 16.4 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | Tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | m-chloroperoxybenzoic acid | 29.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methyl tert-butyl ether | 150 mL | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 80 mL | C(C)(C)(C)OC | C5H12O
product | 2-(S)-Hydroxyamino-2-phenyl-ethanol | ON[C@H](CO)C1=CC=CC=C1 | C8H11NO2
